data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "Δ"}], "steps": [{"reactants": "C=C(Br)CC1=CC2(OC)C(F)C1CC2(C(=C)O[Si](C)(C)C)C(=O)OC", "products": "C=C(Br)CC12C=CC(OC)C1(F)CC(C(=O)OC)=C(O[Si](C)(C)C)C2"}, {"reactants": "C=C(Br)CC12C=CC(OC)C1(F)CC(C(=O)OC)=C(O[Si](C)(C)C)C2", "products": "C=C(Br)CC12C=CC(OC)C1(F)CC(C(=O)OC)=C(O)C2"}, {"reactants": "C=C(Br)CC12C=CC(OC)C1(F)CC(C(=O)OC)=C(O)C2", "products": "C=C(Br)CC12C=CC(OC)C1(F)CC(C(=O)OC)C(=O)C2"}]}
{"conditions": [{"role": "reagent", "text": "cat. Rh2(OAc)4"}], "steps": [{"reactants": "CCC1(C(=O)C(=[N+]=[N-])C(=O)OC)CCC(C)N(C(=O)Cc2cn(C)c3ccccc23)C1=O.[Rh]", "products": "CCC1(C(=O)[C](=[Rh])C(=O)OC)CCC(C)N(C(=O)Cc2cn(C)c3ccccc23)C1=O.N#N"}, {"reactants": "CCC1(C(=O)[C](=[Rh])C(=O)OC)CCC(C)N(C(=O)Cc2cn(C)c3ccccc23)C1=O", "products": "CCC12CCC(C)N(C(=O)Cc3cn(C)c4ccccc34)C1=[O+][C-](C(=O)OC)C2=O.[Rh]"}, {"reactants": "CCC12CCC(C)N(C(=O)Cc3cn(C)c4ccccc34)C1=[O+][C-](C(=O)OC)C2=O", "products": "CCC12CCC(C)N3C(=O)CC45c6ccccc6N(C)C4C(C(=O)OC)(OC315)C2=O"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "Cc1cccc(Cl)c1C(=O)C1C2CCC1C2", "products": "Cc1cccc(Cl)c1[C]([O])C1C2CCC1C2"}, {"reactants": "Cc1cccc(Cl)c1[C]([O])C1C2CCC1C2", "products": "Cc1cccc(Cl)c1C([O])=CC1C[CH]CC1"}, {"reactants": "Cc1cccc(Cl)c1C([O])=CC1C[CH]CC1", "products": "Cc1cccc(Cl)c1C(O)=CC1C=CCC1"}, {"reactants": "Cc1cccc(Cl)c1C(O)=CC1C=CCC1", "products": "Cc1cccc(Cl)c1C(=O)CC1C=CCC1"}]}
{"conditions": [{"role": "reagent", "text": "cat. Rh2(OAc)4"}], "steps": [{"reactants": "CCC1(C(=O)C(=[N+]=[N-])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)C(Cl)CC1OC.[Rh]", "products": "CCC1(C(=O)[C](=[Rh])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)C(Cl)CC1OC.N#N"}, {"reactants": "CCC1(C(=O)[C](=[Rh])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)C(Cl)CC1OC", "products": "CCC12C(=O)[C-](C(=O)OC)[O+]=C1N(C(=O)Cc1cn(C)c3ccccc13)C(Cl)CC2OC.[Rh]"}, {"reactants": "CCC12C(=O)[C-](C(=O)OC)[O+]=C1N(C(=O)Cc1cn(C)c3ccccc13)C(Cl)CC2OC", "products": "CCC12C(=O)C3(C(=O)OC)OC14N(C(=O)CC41c4ccccc4N(C)C31)C(Cl)CC2OC"}]}
{"conditions": [{"role": "reagent", "text": "NaOMe"}], "steps": [{"reactants": "Cc1ccc(S(=O)(=O)OC2C(OS(=O)(=O)c3ccc(C)cc3)C3(Cl)COC(C)(O3)C2OS(=O)(=O)c2ccc(C)cc2)cc1.[O-]C", "products": "Cc1ccc(S(=O)(=O)OC2=CC3(C)OCC(Cl)(O3)C2OS(=O)(=O)c2ccc(C)cc2)cc1"}, {"reactants": "Cc1ccc(S(=O)(=O)OC2=CC3(C)OCC(Cl)(O3)C2OS(=O)(=O)c2ccc(C)cc2)cc1.[O-]C", "products": "Cc1ccc(S(=O)(=O)OC2C([O-])=CC3(C)OCC2(Cl)O3)cc1"}, {"reactants": "Cc1ccc(S(=O)(=O)OC2C([O-])=CC3(C)OCC2(Cl)O3)cc1", "products": "CC12OCC(Cl)(O1)C1C(=O)C12"}, {"reactants": "CC12OCC(Cl)(O1)C1C(=O)C12.[O-]C", "products": "COC1([O-])C2C1C1(C)OCC2(Cl)O1"}, {"reactants": "COC1([O-])C2C1C1(C)OCC2(Cl)O1.CO", "products": "COC(=O)C1CC2(Cl)COC1(C)O2"}]}
{"conditions": [{"role": "reagent", "text": "ZnCl2"}], "steps": [{"reactants": "COc1cc(C)c(NN=CCc2ccccc2)cc1OC.Cl[Zn]Cl", "products": "COc1cc(C)c(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])cc1OC"}, {"reactants": "COc1cc(C)c(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])cc1OC", "products": "COc1cc(C)c(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])cc1OC.[H+]"}, {"reactants": "COc1cc(C)c(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])cc1OC", "products": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2cc(C)ccc2OC)C(=N)C=C1"}, {"reactants": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2cc(C)ccc2OC)C(=N)C=C1", "products": "COc1cc(C)c(N)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c1OC"}, {"reactants": "COc1cc(C)c(N)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c1OC", "products": "COc1cc(C)c2c(c1OC)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2"}, {"reactants": "COc1cc(C)c2c(c1OC)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2.[H+]", "products": "COc1cc(C)c2c(c1OC)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2"}, {"reactants": "COc1cc(C)c2c(c1OC)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2", "products": "COc1cc(C)c2c(c1OC)C(c1ccccc1)C=[NH+]2.N[Zn-](Cl)Cl"}, {"reactants": "COc1cc(C)c2c(c1OC)C(c1ccccc1)C=[NH+]2", "products": "COc1cc(C)c2[nH]cc(-c3ccccc3)c2c1OC.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "Δ"}], "steps": [{"reactants": "C=C(Br)CC1=C(Cl)C2(Cl)CC1CC2(C(=C)O[Si](C)(C)C)C(=O)OC", "products": "C=C(Br)CC12C=C(Cl)C(Cl)C1CC(C(=O)OC)=C(O[Si](C)(C)C)C2"}, {"reactants": "C=C(Br)CC12C=C(Cl)C(Cl)C1CC(C(=O)OC)=C(O[Si](C)(C)C)C2", "products": "C=C(Br)CC12C=C(Cl)C(Cl)C1CC(C(=O)OC)=C(O)C2"}, {"reactants": "C=C(Br)CC12C=C(Cl)C(Cl)C1CC(C(=O)OC)=C(O)C2", "products": "C=C(Br)CC12C=C(Cl)C(Cl)C1CC(C(=O)OC)C(=O)C2"}]}
